US07968720B2
6-[3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′,3′-dicarboxylic Acid 1′-tert-butyl Ester 3′-methyl Ester (C8)
A mixture of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (WO 2004/002957; 6.04 g, 15.5 mmol), 2-[3-(2-chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine (9.28 g, 20.7 mmol) and aq. 2M Na2CO3 (93.1 mL, 186 mmol) in DME (150 mL) was prepared, and Pd(PPh3)4 (1.00 g, 0.866 mmol) was added in portions. The mixture was heated to 80° C., and stirred at this temperature for 1 h. The mixture was allowed to cool to rt, and was diluted with EtOAc. The resulting mixture was washed with water and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 1:2→2:1) yielded the title compound (4.64 g, 40%). LC-MS: tR=1.34 min; ES+: 562.34.

reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 15.5 mmol, 6.04 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | 2-[3-(2-chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 20.7 mmol, 9.28 g | ClC1=C(C(=CC=C1F)F)C1=NOC(=C1)COC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H20BClF2N2O4
reactant | Na2CO3 | 186 mmol, 2M, 93.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 150 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.866 mmol, 1.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′,3′-dicarboxylic Acid 1′-tert-butyl Ester 3′-methyl Ester | 4.64 g, 40% | COC(=O)C=1CN(CCC1C=1C=NC(=CC1)OCC1=CC(=NO1)C1=C(C(=CC=C1F)F)Cl)C(=O)OC(C)(C)C | C27H26ClF2N3O6
